US08633182B2
Step 3: 3-(4-Bromo-3,5-dimethyl-phenoxymethyl)-1-methanesulfonyl-azetidine
3-(4-Bromo-3,5-dimethyl-phenoxymethyl)-azetidine (400 mg, 1.48 mmol) and DIPEA (0.48 g, 3.7 mmol) are dissolved in 20 mL of dichloromethane and stirred at 0° C. Methanesulfonylchloride (0.12 mL, 1.48 mmol) is added and the reaction mixture is stirred at 0° C. for 2 h. The reaction mixture is washed with water, the organich phase is separated, dried over sodium sulfate and concentrated under vacuum. The crude product is purified by flash chromatography 0-50% ethyl acetate in cyclohexane) to give the title compound (Yield: 330 mg).

reactant | 3-(4-Bromo-3,5-dimethyl-phenoxymethyl)-azetidine | 1.48 mmol, 400 mg | BrC1=C(C=C(OCC2CNC2)C=C1C)C | C12H16BrNO
reactant | DIPEA | 3.7 mmol, 0.48 g | CCN(C(C)C)C(C)C | C8H19N
reactant | Methanesulfonylchloride | 1.48 mmol, 0.12 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 3-(4-Bromo-3,5-dimethyl-phenoxymethyl)-1-methanesulfonyl-azetidine | Yield: 330 mg | BrC1=C(C=C(OCC2CN(C2)S(=O)(=O)C)C=C1C)C | C13H18BrNO3S
